US09227978B2
Ethyl 2-(5,6-dichloro-1H-indol-3-yl)acetate
To a mixture of 5,6-dichloro-1H-indole (1.0 g, 5.37 mmol), Cu(OTf)2 (194 mg, 0.537 mmol) in DCM (15 mL) at RT, ethyl 2-diazoacetate (918 mg, 8.05 mmol) was added dropwise. The resulting mixture was stirred at RT for 16 h, quenched with water, and then extracted dichloromethane. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by Prep-HPLC to afford the desired product (120 mg, 8.2% yield) as light yellow solid. ESI-MS m/z: 272.1[M+H]+.

reactant | 5,6-dichloro-1H-indole | 5.37 mmol, 1.0 g | ClC=1C=C2C=CNC2=CC1Cl | C8H5Cl2N
reactant | ethyl 2-diazoacetate | 8.05 mmol, 918 mg | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OTf)2 | 0.537 mmol, 194 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
product | Ethyl 2-(5,6-dichloro-1H-indol-3-yl)acetate | 120 mg, 8.2% yield | ClC=1C=C2C(=CNC2=CC1Cl)CC(=O)OCC | C12H11Cl2NO2
